US05703240
(2-Methoxy-5-tetrazol-1-yl-benzyl)-(cis-2-phenyl-piperidin-3-yl)-amine dihydrochloride
To a solution of cis-2-phenylpiperidin-3-yl-amine (1.22 mmol) and 2-methoxy-5-tetrazol-1-yl-benzaldehyde (1.22 mmol) in dichloromethane (25 ml) was added sodium triacetoxy borohydride (1.7 mmol) and 2 drops of glacial acetic acid. The mixture was stirred at room temperature under nitrogen atmosphere for 18 h. The solvent was evaporated in vacuo and the residue quenched with 2N solution of sodium carbonate (20 ml) and extracted with ethyl acetate (3×50 ml). The organic layer was treated with 2N hydrochloric acid solution (20 ml) and the acidic portion basified with 2N sodium carbonate solution and extracted with dichloromethane (3×100 ml). The organic extracts were dried (MgSO4), filtered and concentrated to give a residue which was purified by FCC (dichloromethane/ethanol/ammonia--200:8:1) to give a white foam which was dissolved in ethanol (15 ml) and treated with 1M hydrochloric acid solution in ether (2.5 ml). The solvent was evaporated in vacuo and the resulting white solid triturated with isopropanol and filtered to afford the title compound. (49%). m.p. 242°-243° T.l.c. (Dichloromethane/ethanol/ammonia (200:8:1)) Rf 0.5

reactant | cis-2-phenylpiperidin-3-yl-amine | 1.22 mmol | C1(=CC=CC=C1)[C@@H]1NCCC[C@@H]1N | C11H16N2
reactant | 2-methoxy-5-tetrazol-1-yl-benzaldehyde | 1.22 mmol | COC1=C(C=O)C=C(C=C1)N1N=NN=C1 | C9H8N4O2
reactant | sodium triacetoxy borohydride | 1.7 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ether | 2.5 ml | CCOCC | C4H10O
product | (2-Methoxy-5-tetrazol-1-yl-benzyl)-(cis-2-phenyl-piperidin-3-yl)-amine dihydrochloride | Cl.Cl.COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | InChI=1S/C20H24N6O.2ClH/c1-27-19-10-9-17(26-14-23-24-25-26)12-16(19)13-22-18-8-5-11-21-20(18)15-6-3-2-4-7-15;;/h2-4,6-7,9-10,12,14,18,20-22H,5,8,11,13H2,1H3;2*1H/t18-,20-;;/m0../s1
